US04360464
21.9 Parts of 2-benzyloxy-1,3-dichloro-propane, 59.1 parts of iso-propylamine and 59.1 parts of water were added to an autoclave, and the mixture was heated at 90° C. for 48 hours with agitation. The reaction mixture was cooled and treated in the same manner as in Example 29, followed by distillation under reduced pressure. As a result, 17.4 parts of 3-benzyloxy-1-(iso-propyl)azetidine boiling at 105°-107° C. under 2 mm Hg were obtained. The yield was 85%. The results of infra-red spectrum analysis and nuclear magnetic resonance analysis of the product are as follows:

reactant | 2-benzyloxy-1,3-dichloro-propane | C(C1=CC=CC=C1)OC(CCl)CCl | C10H12Cl2O
reactant | iso-propylamine | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 3-benzyloxy-1-(iso-propyl)azetidine | yield was 85% | C(C1=CC=CC=C1)OC1CN(C1)C(C)C | C13H19NO
